US07498337B2
methyl 1H-pyrrole-3-carboxylate
To a suspension of potassium tert-butoxide (17.9 g) in tetrahydrofuran (200 mL) was added dropwise a solution of p-toluenesulfonylmethyl isocyanide (25.2 g) and methyl acrylate (11.8 mL) in tetrahydrofuran (200 mL) over 30 min. The reaction mixture was stirred at room temperature for 1 hr, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=4:1) to give the title compound as a white solid (yield 6.56 g, 41%).

reactant | potassium tert-butoxide | 17.9 g | CC(C)([O-])C.[K+]
reactant | p-toluenesulfonylmethyl isocyanide | 25.2 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | methyl acrylate | 11.8 mL | C(C=C)(=O)OC | C4H6O2
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | methyl 1H-pyrrole-3-carboxylate | yield 6.56 g, 41% | N1C=C(C=C1)C(=O)OC | C6H7NO2
